* source DIGITAL
X_U1A         N14968 N15184 N15209 N15067 N15122 N15184 $G_DPWR $G_DGND 7474
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1B         N14972 N15134 N15122 N15079 N15110 N15134 $G_DPWR $G_DGND 7474
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         N14976 N15159 N15110 N15091 N15103 N15159 $G_DPWR $G_DGND 7474
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U7A         $D_HI N14980 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U7B         $D_LO N14984 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U7C         $D_HI N14988 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U8A         N15209 N15122 N15110 N15103 N14992 $G_DPWR $G_DGND 74HCT4002
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM1         STIM(1,0) $G_DPWR $G_DGND N15209 IO_STM STIMULUS=ln
X_U9A         N14992 N14980 N162652 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U9B         N14992 $D_HI N163322 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U9C         N14992 N14984 N164122 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U9D         N14992 $D_LO N164792 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U10A         N14992 N14988 N165532 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U10B         N14992 $D_HI N166202 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U11A         N162652 N14968 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U11B         N163322 N15067 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U11C         N164122 N14972 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U11D         N164792 N15079 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U11E         N165532 N14976 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U11F         N166202 N15091 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
